US04198424
2-dimethylamino-1-isopropyl-1-pyrrolinium methyl sulfate
161 g of 1-isopropyl-2-methoxy-1-pyrrolinium methyl sulfate are added dropwise, with stirring, to a solution of 43.8 g of dimethylamine in 283 ml of benzene. Subsequently, boiling under reflux is effected for 1.5 hours; the heavy phase is separated off and washed 4 times with, in each case, 50 ml of diethyl ether. After drying under a high vacuum, 154 g (91% of theory) of the title compound (as a reddish oil) are obtained.

reactant | 1-isopropyl-2-methoxy-1-pyrrolinium methyl sulfate | 161 g | COS(=O)(=O)[O-].C(C)(C)[N+]1=C(CCC1)OC
reactant | dimethylamine | 43.8 g | CNC | C2H7N
solvent | benzene | 283 ml | C1=CC=CC=C1 | C6H6
product | 2-dimethylamino-1-isopropyl-1-pyrrolinium methyl sulfate | COS(=O)(=O)[O-].CN(C1=[N+](CCC1)C(C)C)C | InChI=1S/C9H19N2.CH4O4S/c1-8(2)11-7-5-6-9(11)10(3)4;1-5-6(2,3)4/h8H,5-7H2,1-4H3;1H3,(H,2,3,4)/q+1;/p-1
